US07081454B2
4-Amino-3-methyl-benzonitrile:
To a solution of 3-methyl-4-nitro-benzonitrile (20 g, 0.123 mol) in HOAc (200 mL) was added iron powder (17.55 g, 0.309 mol). After 10 min, the reaction was exothermic and turned to dark color. The reaction mixture was allowed to stir at room temperature for 14 h and then diluted with EtOAc (200 mL). The brown precipitate was filtered through a pad of celite and the filtercake was rinsed with EtOAc. The filtrate was concentrated in vacuo and the residue was purified by flash chromatography (40% EtOAc/hexane) to yield the title compound (15.3 g, 92%). 1H NMR (300 MHz, CDCl3) δ 7.30–7.34 (2H, m), 6.64 (1H, d, J=8.7 Hz), 2.16 (3H, s). LCMS (M+H)+ m/z 133 (t=0.93 min).

reactant | 3-methyl-4-nitro-benzonitrile | 0.123 mol, 20 g | CC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O2
solvent | HOAc | 200 mL | CC(=O)O | C2H4O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | iron | 0.309 mol, 17.55 g | [Fe] | Fe
product | 4-Amino-3-methyl-benzonitrile | 15.3 g, 92% | NC1=C(C=C(C#N)C=C1)C | C8H8N2
